US07053117B2
Sodium cyanoborohydride (10 mg) was added to 2-amino-4-phenylquinoline-3-carbonitrile (5 mg) in solution in acetic acid (0.25 mL). After stirring 85 min at room temperature, there was no more change in TLC, so sodium cyanoborohydride (15 mg) was further added. The reaction mixture was allowed to stir for another 20 min, then was neutralized with saturated sodium bicarbonate solution and extracted with ethyl acetate. The extract was washed with saturated sodium chloride solution and dried. The crude obtained after removing the solvent was passed through a bond-elute (4:1 to 7:3 hexane-ethyl acetate) yielding 2 mg of 2-amino-3-cyano-4-phenyl-1,4-dihydroquinoline. 1H NMR (CD3OD): 7.22–7.26 (m, 2H), 7.12–7.19 (m, 3H), 7.07 (dt, J=7.8, 1.6 Hz, 1H), 6.92 (finely split doublet, J=7.8 Hz, 1H), 6.82 (dt, J=7.6, 1.2 Hz, 1H), 6.77 (dd, J=8.1, 1.2 Hz, 1H), 4.76 (s, 1H).

reactant | Sodium cyanoborohydride | 10 mg | C(#N)[BH3-].[Na+]
reactant | 2-amino-4-phenylquinoline-3-carbonitrile | 5 mg | NC1=NC2=CC=CC=C2C(=C1C#N)C1=CC=CC=C1 | C16H11N3
reactant | sodium cyanoborohydride | 15 mg | C(#N)[BH3-].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | acetic acid | 0.25 mL | C(C)(=O)O | C2H4O2
product | 2-amino-3-cyano-4-phenyl-1,4-dihydroquinoline | 2 mg | NC=1NC2=CC=CC=C2C(C1C#N)C1=CC=CC=C1 | C16H13N3
